US05200329
To a solution of 2-amino-3,6-dichlorophenol (23. g, 134 mmol) in methylene chloride (270 mL), solid ethyl chloroiminoacetate hydrogen chloride (31.9 g, 202 mmol) was added. The resultant slurry was stirred at room temperature overnight, then filtered through a plug of Celite, and concentrated under reduced pressure (15 torr). The solid residue was subjected to column chromatography on silica gel (elution with chloroform). Collection and concentration of appropriate fractions yielded 26.6 g (86%) of 2-chloromethyl-4,7-dichlorobenzoxazole.

reactant | 2-amino-3,6-dichlorophenol | 134 mmol | NC1=C(C(=CC=C1Cl)Cl)O | C6H5Cl2NO
reactant | ethyl chloroiminoacetate hydrogen chloride | 202 mmol, 31.9 g | Cl.ClN=CC(=O)OCC
solvent | methylene chloride | 270 mL | C(Cl)Cl | CH2Cl2
product | 2-chloromethyl-4,7-dichlorobenzoxazole | 26.6 g, 86% | ClCC=1OC2=C(N1)C(=CC=C2Cl)Cl | C8H4Cl3NO
